US04585772
9-Amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
4.6 g of 9-nitro-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline were dissolved in 4.8 g (0.12 mol) of NaOH in 80 ml of H2O. 10.5 g of sodium dithionite were added to the mixture, during which the temperature increased to 60° C. The mixture was then heated to boiling for a short time. After the mixture had been cooled, the precipitated crystals were filtered off under suction, washed with H2O and finally thoroughly stirred in 1N NaOH. The mixture was then again filtered off under suction, and the residue was washed with water, ethanol and ether, and dried.

reactant | 9-nitro-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 4.6 g | [N+](=O)([O-])C1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C10H8N4O3
reactant | NaOH | 0.12 mol, 4.8 g | [OH-].[Na+]
reactant | sodium dithionite | 10.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | H2O | 80 ml | O | H2O
product | 9-Amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | NC1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C10H10N4O
